### PR TITLE
feat: lemmas about `AddMonoidAlgebra.{divOf, modOf}`

### PR DESCRIPTION
**Pull request by jjaassoonn**
---

- [x] depends on: #7582
- [x] depends on: #8975

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 1]
```diff
@@ -190,6 +197,28 @@ theorem modOf_add_divOf (x : AddMonoidAlgebra k G) (g : G) : x %ᵒᶠ g + of' k
...
+  have eq1 : - _ = _ := (congr_arg (- .) $ modOf_add_divOf x g).trans
+    (modOf_add_divOf (-x) g).symm
+  simp only [neg_add_rev, neg_divOf, mul_neg, add_comm] at eq1
+  rwa [add_left_inj, eq_comm] at eq1
+
+-- Need `k''` to find commutativity
+lemma add_modOf (x y : AddMonoidAlgebra k'' G) (g : G) : (x + y) %ᵒᶠ g = x %ᵒᶠ g + y %ᵒᶠ g := by
+  have eq1 : _ + _ = _ + _ := (congr_arg₂ (. + .) (modOf_add_divOf x g) (modOf_add_divOf y g)).trans
+    (modOf_add_divOf (x + y) g).symm
+  rwa [add_divOf, mul_add, show ∀ (a b c d), a + b + (c + d) = a + c + b + d from ?_, add_assoc,
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:210]: This show is `add_add_add_comm`

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 2]
```diff
@@ -190,6 +197,28 @@ theorem modOf_add_divOf (x : AddMonoidAlgebra k G) (g : G) : x %ᵒᶠ g + of' k
   by rw [add_comm, divOf_add_modOf]
 #align add_monoid_algebra.mod_of_add_div_of AddMonoidAlgebra.modOf_add_divOf
 
+lemma neg_modOf (x : AddMonoidAlgebra k' G) (g : G) : (-x) %ᵒᶠ g = - (x %ᵒᶠ g) := by
+  have eq1 : - _ = _ := (congr_arg (- .) $ modOf_add_divOf x g).trans
+    (modOf_add_divOf (-x) g).symm
+  simp only [neg_add_rev, neg_divOf, mul_neg, add_comm] at eq1
+  rwa [add_left_inj, eq_comm] at eq1
+
+-- Need `k''` to find commutativity
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:206]: `k'` works fine for me here...

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 3]
```diff
@@ -190,6 +197,28 @@ theorem modOf_add_divOf (x : AddMonoidAlgebra k G) (g : G) : x %ᵒᶠ g + of' k
...
+lemma add_modOf (x y : AddMonoidAlgebra k'' G) (g : G) : (x + y) %ᵒᶠ g = x %ᵒᶠ g + y %ᵒᶠ g := by
+  have eq1 : _ + _ = _ + _ := (congr_arg₂ (. + .) (modOf_add_divOf x g) (modOf_add_divOf y g)).trans
+    (modOf_add_divOf (x + y) g).symm
+  rwa [add_divOf, mul_add, show ∀ (a b c d), a + b + (c + d) = a + c + b + d from ?_, add_assoc,
+    add_left_inj, eq_comm] at eq1
+  intros; ring
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:212]:
```suggestion
lemma add_modOf [IsCancelAdd k] (x y : AddMonoidAlgebra k G) (g : G) : (x + y) %ᵒᶠ g = x %ᵒᶠ g + y %ᵒᶠ g := by
  have eq1 : _ + _ = _ + _ := (congr_arg₂ (. + .) (modOf_add_divOf x g) (modOf_add_divOf y g)).trans
    (modOf_add_divOf (x + y) g).symm
  letI missing : IsCancelAdd (G →₀ k) := {
    add_left_cancel := fun a b c h => Finsupp.ext <| fun x => add_left_cancel (FunLike.congr_fun h x)
    add_right_cancel := fun a b c h => Finsupp.ext <| fun x => add_right_cancel (FunLike.congr_fun h x)
  }
  letI also_missing : IsCancelAdd (AddMonoidAlgebra k G) := missing
  rwa [add_divOf, mul_add, add_add_add_comm, add_left_inj, eq_comm] at eq1
```
where those two `letI`s should be global instances

File: Mathlib/Algebra/MonoidAlgebra/Division.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean:206]: `abel` actually works for `k'

File: Mathlib/Algebra/MonoidAlgebra/Division.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean]: I have moved them outside

**Comment by jjaassoonn** [comment]
This PR is not finished yet, need to translate these result about `AddMonoidAlgebra` to `MvPolynomial`

File: Mathlib/Data/MvPolynomial/Division.lean [hunk 4]
```diff
@@ -264,4 +344,28 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+
+lemma X_sub_C_not_isUnit (i : σ) (c : R') [Nontrivial R'] : ¬ IsUnit (X i - C c) := by
+  classical
+  rintro ⟨⟨_, m, hm1, hm2⟩, rfl⟩
+  have r := congr_arg (eval $ Finsupp.single i c) hm1
+  simp only [map_mul, map_sub, eval_X, Finsupp.single_eq_same, eval_C, sub_self, zero_mul,
+    map_one] at r
+  exact (one_ne_zero' R' r.symm)
+
+lemma prime_X (i : σ) [IsDomain R'] : Prime (X (R := R') i) := by
```
Comment (jjaassoonn) [inline Mathlib/Data/MvPolynomial/Division.lean:364]: not the best approach

File: Mathlib/Data/Finsupp/Basic.lean [hunk 5]
```diff
@@ -1878,4 +1878,9 @@ unsafe instance (ι α : Type*) [Zero α] [Repr ι] [Repr α] : Repr (ι →₀
         f.support.val.unquot.map fun i => "finsupp.single " ++ repr i ++ " " ++ repr (f i)
 -/
 
+protected instance IsCancelAdd [Add α] [IsCancelAdd α] [AddZeroClass β] [IsCancelAdd β] :
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:1881]:
```suggestion
protected instance instIsCancelAdd [Add α] [IsCancelAdd α] [AddZeroClass β] [IsCancelAdd β] :
```
is the convention for instances

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean [hunk 6]
```diff
@@ -1203,6 +1203,10 @@ instance coeFun : CoeFun k[G] fun _ => G → k :=
 
 end AddMonoidAlgebra
 
+instance AddMonoidAlgebra.instIsCancelAdd [IsCancelAdd k] [AddZeroClass G] [IsCancelAdd G] :
+    IsCancelAdd (AddMonoidAlgebra k G) := by
+  delta AddMonoidAlgebra
+  exact Finsupp.instIsCancelAdd (α := G) (β := k)
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Basic.lean:1209]: This shouldn't need to assume anything about `G`; I've corrected this (and the other instances) in #7582, though I'm alarmed the linter didn't spot this.

**Comment by eric-wieser** [comment]
Can you merge master?

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean:1221]: I think this instance is now a duplicate

File: Mathlib/Data/Finsupp/Basic.lean [hunk 7]
```diff
@@ -1878,4 +1878,9 @@ unsafe instance (ι α : Type*) [Zero α] [Repr ι] [Repr α] : Repr (ι →₀
         f.support.val.unquot.map fun i => "finsupp.single " ++ repr i ++ " " ++ repr (f i)
 -/
 
+protected instance instIsCancelAdd [Add α] [IsCancelAdd α] [AddZeroClass β] [IsCancelAdd β] :
```
Comment (eric-wieser) [inline Mathlib/Data/Finsupp/Basic.lean:1881]: This one can be deleted now

File: Mathlib/Algebra/MonoidAlgebra/Basic.lean (hunk 6 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/MonoidAlgebra/Basic.lean]: deleted

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 8]
```diff
@@ -200,6 +227,26 @@ theorem of'_dvd_iff_modOf_eq_zero {x : k[G]} {g : G} :
     exact dvd_mul_right _ _
 #align add_monoid_algebra.of'_dvd_iff_mod_of_eq_zero AddMonoidAlgebra.of'_dvd_iff_modOf_eq_zero
 
+lemma mul_divOf (x y : k''[G]) (g : G) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:230]: I'm pretty sure this doesn't need commutativity, will spin off a helper PR.

Comment (eric-wieser) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean:230]: #8975

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 9]
```diff
@@ -190,6 +197,24 @@ theorem modOf_add_divOf (x : k[G]) (g : G) : x %ᵒᶠ g + of' k G g * (x /ᵒ
...
+  rwa [add_left_inj, eq_comm] at eq1
+
+lemma add_modOf (x y : AddMonoidAlgebra k G) (g : G) :
+    (x + y) %ᵒᶠ g = x %ᵒᶠ g + y %ᵒᶠ g :=
+  Finsupp.filter_add
+
+lemma sub_modOf (x y : k'[G]) (g : G) : (x - y) %ᵒᶠ g = x %ᵒᶠ g - y %ᵒᶠ g :=
+  Finsupp.filter_sub _ _ _
+
+lemma modOf_idem (x : k'[G]) (g : G) : (x %ᵒᶠ g) %ᵒᶠ g = x %ᵒᶠ g := by
```
[the remark this answers is not in the document]
Comment (jjaassoonn) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean]: done, thanks for the suggestion!

File: Mathlib/Data/MvPolynomial/Division.lean [hunk 10]
```diff
@@ -117,6 +126,77 @@ theorem coeff_modMonomial_of_le {s' s : σ →₀ ℕ} (x : MvPolynomial σ R) (
...
 
+lemma neg_modMonomial (s : σ →₀ ℕ) (x : MvPolynomial σ R') :
+    (-x) %ᵐᵒⁿᵒᵐⁱᵃˡ s = -(x %ᵐᵒⁿᵒᵐⁱᵃˡ s) :=
+  x.neg_modOf _
+
+lemma add_modMonomial (s : σ →₀ ℕ) (x y : MvPolynomial σ R) :
+    (x + y) %ᵐᵒⁿᵒᵐⁱᵃˡ s = (x %ᵐᵒⁿᵒᵐⁱᵃˡ s) + (y %ᵐᵒⁿᵒᵐⁱᵃˡ s) :=
+  x.add_modOf _ _
+
+lemma sub_modMonomial (s : σ →₀ ℕ) (x y : MvPolynomial σ R') :
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/Division.lean:137]: This lemma and `neg` should be the only ones that need `R'`; I think the rest will work with `R`.

Comment (jjaassoonn) [reply Mathlib/Data/MvPolynomial/Division.lean:137]: everything except `X_sub_C_not_isUnit` ($X_i - c$ is not a unit) has been been generalized

Comment (alreadydone) [reply Mathlib/Data/MvPolynomial/Division.lean:137]: How is one supposed to type ᵐᵒⁿᵒᵐⁱᵃˡ? copy-paste?

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 11]
```diff
@@ -5,6 +5,7 @@ Authors: Eric Wieser
 -/
 import Mathlib.Algebra.MonoidAlgebra.Basic
 import Mathlib.Data.Finsupp.Order
+import Mathlib.Tactic.Ring
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:8]: I don't have a cache to check, but is this still used?

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 12]
```diff
@@ -74,6 +75,9 @@ theorem zero_divOf (g : G) : (0 : k[G]) /ᵒᶠ g = 0 :=
   map_zero _
 #align add_monoid_algebra.zero_div_of AddMonoidAlgebra.zero_divOf
 
+lemma neg_divOf (x : AddMonoidAlgebra k' G) (g : G) : (-x) /ᵒᶠ g = - (x /ᵒᶠ g) :=
+  Finsupp.ext λ g' ↦ by rw [divOf_apply, Finsupp.neg_apply, Finsupp.neg_apply, divOf_apply]
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:79]:
```suggestion
  Finsupp.ext fun g' ↦ by rw [divOf_apply, Finsupp.neg_apply, Finsupp.neg_apply, divOf_apply]
```

File: Mathlib/Data/MvPolynomial/Division.lean [hunk 13]
```diff
@@ -264,4 +344,32 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+  intro r
+  have := (ext_iff _ _).mp r (Finsupp.single i 1)
+  rw [coeff_add, coeff_X, coeff_zero, coeff_C, if_neg, add_zero] at this
+  · exact one_ne_zero' R  this
+  · intro rid
+    simpa using FunLike.ext_iff.mp rid i
+
+lemma X_sub_C_ne_zero (i : σ) (c : R') [Nontrivial R'] : X i - C c ≠ 0 := by
+  convert X_add_C_ne_zero i (- c) using 1
+  rw [C_neg, sub_eq_add_neg]
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/Division.lean:358]: These don't belong in this file, as far as I can tell they don't use division at all.

File: Mathlib/Data/MvPolynomial/Division.lean [hunk 14]
```diff
@@ -264,4 +344,32 @@ theorem X_dvd_monomial {i : σ} {j : σ →₀ ℕ} {r : R} :
...
+
+lemma X_sub_C_not_isUnit (i : σ) (c : R') [Nontrivial R'] : ¬ IsUnit (X i - C c) := by
+  classical
+  rintro ⟨⟨_, m, hm1, hm2⟩, rfl⟩
+  have r := congr_arg (eval $ Finsupp.single i c) hm1
+  simp only [map_mul, map_sub, eval_X, Finsupp.single_eq_same, eval_C, sub_self, zero_mul,
+    map_one] at r
+  exact (one_ne_zero' R' r.symm)
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/Division.lean:366]: Nor does this one I don't think.

File: Mathlib/Algebra/MonoidAlgebra/Division.lean [hunk 15]
```diff
@@ -200,6 +225,44 @@ theorem of'_dvd_iff_modOf_eq_zero {x : k[G]} {g : G} :
...
+lemma mul_modOf (x y : k[G]) (g : G) :
+    (x * y) %ᵒᶠ g = ((x %ᵒᶠ g) * (y %ᵒᶠ g)) %ᵒᶠ g := by
+  have := congr_arg₂ HMul.hMul (divOf_add_modOf x g) (divOf_add_modOf y g)
+  simp only [mul_add, add_mul, (of'_commute (AddCommute.all g) _).symm.left_comm] at this
+  rw [← this]
+  simp_rw [add_modOf, mul_assoc, of'_mul_modOf, zero_add]
+
+/-- `hs` is a more general spelling of `¬(s ≤ a) → ¬(s ≤ b) → ¬(s ≤ a + b)`. -/
+lemma mul_modOf_of_minimal (x y : k[G]) (s : G)
+    (hs : ∀ a b, ¬(∃ d, a = s + d) → ¬(∃ d, b = s + d) → ¬(∃ d, a + b = s + d)) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/MonoidAlgebra/Division.lean:251]: @YaelDillies, is there a higher-level description of what this statement means? I'm pretty sure this is the correct generality for this file, but a more intuitive docstring would be nice. The intended application is `G := σ →₀ ℕ`, where `s := Finsupp.single` is a suitable choice of `S`; or `G := ℕ`, where `s = 1` is such a choice.

Is it "covers zero"?

File: Mathlib/Data/MvPolynomial/Division.lean [hunk 16]
```diff
@@ -117,6 +126,43 @@ theorem coeff_modMonomial_of_le {s' s : σ →₀ ℕ} (x : MvPolynomial σ R) (
...
+  x.mul_modOf _ _
+
+lemma mul_modMonomial_finsupp_single (i : σ) (x y : MvPolynomial σ R) :
+    (x * y) %ᵐᵒⁿᵒᵐⁱᵃˡ Finsupp.single i 1 =
+    (x %ᵐᵒⁿᵒᵐⁱᵃˡ Finsupp.single i 1) * (y %ᵐᵒⁿᵒᵐⁱᵃˡ Finsupp.single i 1) := by
+  refine AddMonoidAlgebra.mul_modOf_of_minimal _ _ _ fun a b ha hb h => ?_
+  rw [← le_iff_exists_add, Finsupp.single_le_iff] at ha hb h
+  rw [not_le, Nat.lt_one_iff] at ha hb
+  rw [Finsupp.add_apply, ha, hb, zero_add] at h
+  cases h
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/Division.lean:164]: @jjaassoonn: I substantially golfed this in bd4602f88f07fe6b1a3e5bf11ffee56bb84313c2

File: Mathlib/Data/MvPolynomial/Division.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/Data/MvPolynomial/Division.lean:334]:
```suggestion
lemma prime_X (i : σ) [IsDomain R'] : Prime (X i : R'[X]) := by
```

File: Mathlib/Algebra/MonoidAlgebra/Division.lean (hunk 11 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean]: No longer needed

File: Mathlib/Data/MvPolynomial/Division.lean (hunk 16 above)
Comment (jjaassoonn) [reply Mathlib/Data/MvPolynomial/Division.lean:164]: Nice! Thanks

File: Mathlib/Data/MvPolynomial/Division.lean (hunk 13 above)
Comment (jjaassoonn) [reply Mathlib/Data/MvPolynomial/Division.lean]: moved to other files

File: Mathlib/Data/MvPolynomial/Division.lean (hunk 14 above)
Comment (jjaassoonn) [reply Mathlib/Data/MvPolynomial/Division.lean]: moved to another file

File: Mathlib/Algebra/MonoidAlgebra/Division.lean (hunk 15 above)
Comment (YaelDillies) [reply Mathlib/Algebra/MonoidAlgebra/Division.lean:251]: I agree with "covers zero" in the case where `G` is canonically ordered. In general this sounds more like "order-inaccessible by addition"? kind of like a compact element, except we take addition instead of supremum.

File: Mathlib/Data/MvPolynomial/CommRing.lean [hunk 17]
```diff
@@ -70,6 +70,20 @@ theorem C_neg : (C (-a) : MvPolynomial σ R) = -C a :=
...
+variable {σ} in
+lemma X_sub_C_ne_zero (i : σ) (c : R) [Nontrivial R] : X i - C c ≠ 0 := by
+  convert X_add_C_ne_zero i (- c) using 1
+  rw [C_neg, sub_eq_add_neg]
+
+variable {σ} in
+lemma X_sub_C_not_isUnit (i : σ) (c : R) [Nontrivial R] : ¬ IsUnit (X i - C c) := by
+  classical
+  rintro ⟨⟨_, m, hm1, hm2⟩, rfl⟩
+  have r := congr_arg (eval $ Finsupp.single i c) hm1
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/CommRing.lean:82]:
```suggestion
  have r := congr_arg (eval <| Finsupp.single i c) hm1
```

File: Mathlib/Data/MvPolynomial/CommRing.lean [hunk 18]
```diff
@@ -70,6 +70,20 @@ theorem C_neg : (C (-a) : MvPolynomial σ R) = -C a :=
 set_option linter.uppercaseLean3 false in
 #align mv_polynomial.C_neg MvPolynomial.C_neg
 
+variable {σ} in
+lemma X_sub_C_ne_zero (i : σ) (c : R) [Nontrivial R] : X i - C c ≠ 0 := by
+  convert X_add_C_ne_zero i (- c) using 1
+  rw [C_neg, sub_eq_add_neg]
+
+variable {σ} in
+lemma X_sub_C_not_isUnit (i : σ) (c : R) [Nontrivial R] : ¬ IsUnit (X i - C c) := by
```
Comment (eric-wieser) [inline Mathlib/Data/MvPolynomial/CommRing.lean:79]: Do we have the `X + C` version too? I think it would make sense to prove this one from that one

Comment (jjaassoonn) [reply Mathlib/Data/MvPolynomial/CommRing.lean]: done, thanks

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
